US09388189B2
(S)-tert-Butyl (3-(benzyloxy)-1-(5-cyano-3-(3,5-difluorophenyl)-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate
In a reactor vessel (S)-tert-butyl (3-(benzyloxy)-1-(5-bromo-3-(3,5-difluorophenyl)-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate (0.81 g, 1.37 mmol) was dissolved in 32 mL dimethylformamide. Dicyanozinc (0.4 g, 3.49 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.64 g, 0.55 mmol) were added under argon conditions. The reaction was stirred at 120° C. overnight. The crude was filtered through a plug of Celite and washed several times with ethyl acetate. The combinated filtrates were evaporated and washed with water, brine, dried over sodium sulphate, filtered and concentrated under reduced pressure. The residue was purified using SP1 ® Purification System (0% to 40%, hexane-ethyl acetate) to obtain 0.58 g (77% yield) of the title compound as a white solid. Purity 98%.

reactant | (S)-tert-butyl (3-(benzyloxy)-1-(5-bromo-3-(3,5-difluorophenyl)-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate | 1.37 mmol, 0.81 g | C(C1=CC=CC=C1)OCC[C@@H](C1=NN2C(C(N1C1=CC(=CC(=C1)F)F)=O)=C(C=C2)Br)NC(OC(C)(C)C)=O | C27H27BrF2N4O4
reactant | Dicyanozinc | 3.49 mmol, 0.4 g | C(#N)[Zn]C#N
solvent | dimethylformamide | 32 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.55 mmol, 0.64 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-tert-Butyl (3-(benzyloxy)-1-(5-cyano-3-(3,5-difluorophenyl)-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate | 0.58 g, 77% yield | C(C1=CC=CC=C1)OCC[C@@H](C1=NN2C(C(N1C1=CC(=CC(=C1)F)F)=O)=C(C=C2)C#N)NC(OC(C)(C)C)=O | C28H27F2N5O4
